US07795454B2
Duloxetine oxalate (38.7 g) was placed into 300 ml of an ethyl acetate/water (1:1) mixture. Aqueous ammonium solution was added to dissolve the solid completely under stirring. The separated aqueous layer was washed with ethyl acetate twice. The combined organic solution was then washed with saturated brine, and dried with anhydrous sodium sulphate. The free duloxetine (26 g) was obtained as an oil by removing the solvents from the filtrate solution.

reactant | Duloxetine oxalate | 38.7 g | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3.C(C(=O)[O-])(=O)[O-]
reactant | ammonium | [NH4+]
solvent | ethyl acetate water | 300 ml | C(C)(=O)OCC.O
product | duloxetine | 26 g, 53% yield | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3 | C18H19NOS
